US05302317
140.9 g of 2-(1,3-dioxolan-2-yl)ethyl-triphenylphosphonium bromide were suspended in 4.5 1 of tetrahydrofuran while gassing with nitrogen and the suspension was treated at 0° C. within 5 minutes with 36.8 g of potassium tert.butylate. The orange suspension was stir-red at room temperature for a further I hour and treated within 5 minutes with 46.1 g of 4-(4-oxocyclohexyl)benzamide. The reaction mixture was stirred at room temperature for a further 4.5 hours and then concentrated in a vacuum. The yellowish crystals obtained (212.5 g) were treated with 1.2 1 of diethyl ether. The mixture was stirred at room temperature for 30 minutes and then suction filtered. The residue was washed with diethyl ether and then suspended in 700 ml of water. The mixture was stirred for 15 minutes and then suction filtered. The residue was washed with water and dissolved while heating in 600 ml of dioxan. The solution was left to cool to room temperature. The separated crystals were removed by filtration under suction, washed with a small amount of dioxan and hexane and dried at 60° C. in a vacuum, whereby there were obtained 39.2 g of crystalline 4-[4-[2-(1,3-dioxolan-2-yl)ethylidene]cyclo-hexyl]benzamide with m.p. 209°-212° C. Working-up of the mother liquor (72.6 g) gave a further 7.7 g of product and 64.2 g of a second mother liquor.

reactant | 2-(1,3-dioxolan-2-yl)ethyl-triphenylphosphonium bromide | 140.9 g | [Br-].O1C(OCC1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 4-(4-oxocyclohexyl)benzamide | 46.1 g | O=C1CCC(CC1)C1=CC=C(C(=O)N)C=C1 | C13H15NO2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-[4-[2-(1,3-dioxolan-2-yl)ethylidene]cyclo-hexyl]benzamide | 39.2 g | O1C(OCC1)CC=C1CCC(CC1)C1=CC=C(C(=O)N)C=C1 | C18H23NO3
